US09193707B2
4. Synthesis of 2-[4-(dimethylamino)phenyl]quinazoline-4-carboxylic acid
Into a 250-mL round-bottom flask, was placed a solution of methyl 2-[4-(dimethylamino)phenyl]quinazoline-4-carboxylate (2.02 g, 6.57 mmol, 1.00 equiv) in ethanol (60 mL) and a solution of NaOH (1.32 g, 33.00 mmol, 5.00 equiv) in water (20 mL). The resulting solution was stirred for 6 h at 50° C. in an oil bath. The reaction mixture was cooled to room temperature. The mixture was concentrated under vacuum. The residue was dissolved in 20 mL of water. The pH value of the solution was adjusted to 5-6 with acetic acid. The solids were collected by filtration. This resulted in 800 mg (41%) of 2-[4-(dimethylamino)phenyl]quinazoline-4-carboxylic acid as a red solid. (ESI) m/z 294 ([M+H]+).

reactant | methyl 2-[4-(dimethylamino)phenyl]quinazoline-4-carboxylate | 6.57 mmol, 2.02 g, 1.00 equiv | CN(C1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)OC)C | C18H17N3O2
reactant | NaOH | 33.00 mmol, 1.32 g, 5.00 equiv | [OH-].[Na+]
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
product | 2-[4-(dimethylamino)phenyl]quinazoline-4-carboxylic acid | CN(C1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)O)C | C17H15N3O2
